* C:\Users\usuario\Documents\Universidad\RF\AMModulator\Antenna\AcopleAntena.asc
R1 N003 0 797.3
L1 N002 N003 8.2642µ
L2 N002 0 551.6n Rser=1.33
C1 N002 N001 66p
C2 0 N001 440p
V1 N001 0 AC 1 Rser=50
.ac dec 1000 10meg 100meg
.backanno
.end
